current-steering dac 10-bit

.option gmin=1e-19 reltol=10u abstol=10f vntol=10n seed=1

.param mc_mm_switch = 1
.param vdd = 1.5

vdd vdd 0 dc vdd
vb1 b1 0 dc 0
vbb1 bb1 0 dc 1.5
vb2 b2 0 dc 0
vbb2 bb2 0 dc 1.5
vb3 b3 0 dc 0
vbb3 bb3 0 dc 1.5
vb4 b4 0 dc 0
vbb4 bb4 0 dc 1.5
vb5 b5 0 dc 0
vbb5 bb5 0 dc 1.5
vb6 b6 0 dc 0
vbb6 bb6 0 dc 1.5
vb7 b7 0 dc 0
vbb7 bb7 0 dc 1.5
vb8 b8 0 dc 0
vbb8 bb8 0 dc 1.5
vb9 b9 0 dc 0
vbb9 bb9 0 dc 1.5
vb10 b10 0 dc 0
vbb10 bb10 0 dc 1.5
xdac vdd 0 b10 b9 b8 b7 b6 b5 b4 b3 b2 b1 bb10 bb9 bb8 bb7 bb6 bb5 bb4 bb3 bb2 bb1 outp outn dac
rlp outp 0 0.02
rln outn 0 0.02

.op

.save dc v(outp) v(outn)

.subckt pfet d g s b
.param mfac = 1
xm1 d g s b sky130_fd_pr__pfet_01v8_lvt l=350n w=550n as=145.75f ad=145.75f ps=1.63u pd=1.63u mult=mfac m=mfac
.ends

.subckt cell vdd vss bp b bb outp outn weight=1
c1 d1 vdd '20f*weight'
c2 bp vdd '20f*weight'
xm1 d1 bp vdd vdd pfet mfac=weight
xm2p outp bb d1 vdd pfet mfac=weight
xm2n outn b d1 vdd pfet mfac=weight
.ends

.subckt dac vdd vss b10 b9 b8 b7 b6 b5 b4 b3 b2 b1 bb10 bb9 bb8 bb7 bb6 bb5 bb4 bb3 bb2 bb1 outp outn
xmb1 bp bp vdd vdd pfet mfac=2
xmb2 0 0 bp vdd pfet mfac=2
xdc1 vdd 0 bp b1 bb1 outp outn cell weight=4
xdc2 vdd 0 bp b2 bb2 outp outn cell weight=8
xdc3 vdd 0 bp b3 bb3 outp outn cell weight=16
xdc4 vdd 0 bp b4 bb4 outp outn cell weight=32
xdc5 vdd 0 bp b5 bb5 outp outn cell weight=64
xdc6 vdd 0 bp b6 bb6 outp outn cell weight=128
xdc7 vdd 0 bp b7 bb7 outp outn cell weight=256
xdc8 vdd 0 bp b8 bb8 outp outn cell weight=512
xdc9 vdd 0 bp b9 bb9 outp outn cell weight=1024
xdc10 vdd 0 bp b10 bb10 outp outn cell weight=2048
.ends

.param
+ sky130_fd_pr__pfet_01v8_lvt__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8_lvt__pjunction_mult = 1.0009e+0
+ sky130_fd_pr__pfet_01v8_lvt__wkvth0_diff = .73e-6
+ sky130_fd_pr__pfet_01v8_lvt__lkvth0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__wlod_diff = .0e-6
+ sky130_fd_pr__pfet_01v8_lvt__ku0_diff = 5.9e-8
+ sky130_fd_pr__pfet_01v8_lvt__lku0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__wku0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__kvsat_diff = .0e-6
+ sky130_fd_pr__pfet_01v8_lvt__kvth0_diff = 1.76e-8

.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope=3.689e-09
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope1=1.489e-08
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope2=1.689e-08
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope3=2.389e-08
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope=1.389e-08
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope1=9.789e-09
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope2=1.089e-08
.param sky130_fd_pr__pfet_01v8_lvt__lint_slope=0
.param sky130_fd_pr__pfet_01v8_lvt__wint_slope=0
.param sky130_fd_pr__pfet_01v8_lvt__nfactor_slope=0.0
.param sky130_fd_pr__pfet_01v8_lvt__voff_slope=0.0

.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__voff_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__nfactor_slope_spectre = 0.0

.subckt  sky130_fd_pr__pfet_01v8_lvt d g s b
+ 
.param  l = 1 w = 1 nf = 1.0 ad = 0 as = 0 pd = 0 ps = 0 nrd = 0 nrs = 0 sa = 0 sb = 0 sd = 0 mult = 1
msky130_fd_pr__pfet_01v8_lvt d g s b sky130_fd_pr__pfet_01v8_lvt__model l = {l} w = {w} nf = {nf} ad = {ad} as = {as} pd = {pd} ps = {ps} nrd = {nrd} nrs = {nrs} sa = {sa} sb = {sb} sd = {sd}
.model sky130_fd_pr__pfet_01v8_lvt__model pmos
* DC IV MOS Parameters
+ lmin = 3.5e-07 lmax = 5e-07 wmin = 5.5e-07 wmax = 1.0e-6
+ level = 54.0
+ tnom = 30.0
+ version = 4.5
+ toxm = 4.23e-9
+ xj = 1.5e-7
+ lln = 1.0
+ lwn = 1.0
+ wln = 1.0
+ wwn = 1.0
+ lint = 2.8e-9
+ ll = 0.0
+ lw = 0.0
+ lwl = 0.0
+ wint = 7.476e-9
+ wl = 0.0
+ ww = 0.0
+ wwl = 0.0
+ xl = 0.0
+ xw = 0.0
+ mobmod = 0.0
+ binunit = 2.0
+ dwg = -7.916e-9
+ dwb = 0.0
* BSIM4 - Model Selectors
+ igcmod = 0.0
+ igbmod = 0.0
+ rgatemod = 0.0
+ rbodymod = 1.0
+ trnqsmod = 0.0
+ acnqsmod = 0.0
+ fnoimod = 1.0
+ tnoimod = 1.0
+ permod = 1.0
+ geomod = 0.0
+ rdsmod = 0.0
+ tempmod = 0.0
+ lintnoi = 0.0
+ vfbsdoff = 0.0
+ lambda = 0.0
+ vtl = 0.0
+ lc = 5.0e-9
+ xn = 3.0
+ rnoia = 0.69
+ rnoib = 0.34
+ tnoia = 25000000.0
+ tnoib = 0.0
* BSIM4 - Process Parameters
+ epsrox = 3.9
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__toxe_slope_spectre)
+ toxe = {4.23e-09+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(4.23e-09*(sky130_fd_pr__pfet_01v8_lvt__toxe_slope3/sqrt(l*w*mult)))}
+ dtox = 0.0
+ ndep = 1.7000000000000000e+17
+ nsd = 1.0e+20
+ rshg = 0.1
+ rsh = 1.0
* Threshold Voltage Parameters
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__vth0_slope_spectre)
+ vth0 = {-1.782289999e-01+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__vth0_slope1/sqrt(l*w*mult))} lvth0 = -7.222604304e-08 wvth0 = -1.348985490e-07 pvth0 = 4.954643417e-14
+ k1 = 0.64774
+ k2 = -4.695523411e-02 lk2 = 4.071953082e-09 wk2 = -1.048260450e-08 pk2 = 6.073815561e-15
+ k3 = 3.39
+ dvt0 = 2.4422
+ dvt1 = 0.16136
+ dvt2 = 0.026237
+ dvt0w = 0.5
+ dvt1w = 1928100.0
+ dvt2w = -0.032
+ w0 = 1.0e-8
+ k3b = 1.0
* NEW BSIM4 Parameters for Level 54
+ phin = 0.0
+ lpe0 = 0.0
+ lpeb = 0.0
+ vbm = -3.0
+ dvtp0 = 0.0
+ dvtp1 = 0.0
* Mobility Parameters
+ vsat = 1.729186447e+05 lvsat = -1.976658997e-02 wvsat = -6.300395056e-02 pvsat = 1.733533569e-8
+ ua = -3.076683126e-09 lua = 6.229870963e-17 wua = 2.386014056e-16 pua = -1.060940094e-22
+ ub = 2.612994519e-18 lub = 1.905974519e-25 wub = -8.036427329e-26 pub = 6.115694775e-32
+ uc = 1.607392219e-11 luc = 1.380586924e-17 wuc = 4.015260322e-17 puc = -1.359944388e-23
+ rdsw = 484.7
+ prwb = 0.1
+ prwg = 0.052
+ wr = 1.0
+ u0 = 9.335311068e-04 lu0 = 6.553868693e-10 wu0 = 1.170785149e-09 pu0 = -4.005819962e-16
+ a0 = 1.1627
+ keta = -1.727227166e-02 lketa = 1.876040360e-09 wketa = 2.914551807e-09 pketa = -1.003771642e-15
+ a1 = 0.0
+ a2 = 0.46703705
+ ags = -7.446080985e-01 lags = 3.523067795e-07 wags = 9.865926523e-07 pags = -3.470390885e-13
+ b0 = 7.894683512e-07 lb0 = -4.041704517e-13 wb0 = -7.386199123e-13 pb0 = 3.251555372e-19
+ b1 = -1.841702328e-06 lb1 = 7.894705525e-13 wb1 = 1.711615945e-12 pb1 = -6.725137054e-19
* BSIM4 - Mobility Parameters
+ eu = 1.67
+ rdswmin = 0.0
+ rdw = 0.0
+ rdwmin = 0.0
+ rsw = 0.0
+ rswmin = 0.0
* Subthreshold Current Parameters
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__voff_slope_spectre)
+ voff = {-0.1819+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__voff_slope/sqrt(l*w*mult))}
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__nfactor_slope_spectre)
+ nfactor = {2.5373+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__nfactor_slope/sqrt(l*w*mult))}
+ up = 0.0
+ ud = 0.0
+ lp = 1.0
+ tvfbsdoff = 0.0
+ tvoff = 0.0
+ cit = -6.393105e-11
+ cdsc = 2.8125e-7
+ cdscb = 1.0e-4
+ cdscd = 1.0e-10
+ eta0 = 0.2
+ etab = -0.00025
+ dsub = 1.0
* BSIM4 - Sub-threshold parameters
+ voffl = 0.0
+ minv = 0.0
* Rout Parameters
+ pclm = 0.030097
+ pdiblc1 = 0.0
+ pdiblc2 = -2.703778191e-03 lpdiblc2 = 9.640935270e-09 wpdiblc2 = -4.489995143e-08 ppdiblc2 = 3.814731091e-14
+ pdiblcb = -0.025
+ drout = 0.43496
+ pscbe1 = 800000000.0
+ pscbe2 = 8.6797e-9
+ pvag = 0.0
+ delta = 1.509909476e-01 ldelta = -2.800512739e-08 wdelta = -6.545113965e-08 pdelta = 1.652434138e-14
+ alpha0 = 5.0449517e-13
+ alpha1 = -4.0583656e-18
+ beta0 = 6.2016506
* BSIM4 - Rout Parameters
+ fprout = 0.0
+ pdits = 0.0
+ pditsl = 0.0
+ pditsd = 0.0
* BSIM4 - Gate Induced Drain Leakage Model Parameters
+ agidl = 0.0
+ bgidl = 2300000000.0
+ cgidl = 0.5
+ egidl = 0.8
* BSIM4 - Gate Leakage Current Parameters
+ aigbacc = 0.43
+ bigbacc = 0.054
+ cigbacc = 0.075
+ nigbacc = 1.0
+ aigbinv = 0.35
+ bigbinv = 0.03
+ cigbinv = 0.006
+ eigbinv = 1.1
+ nigbinv = 3.0
+ aigc = 0.43
+ bigc = 0.054
+ cigc = 0.075
+ nigc = 1.0
+ aigsd = 0.43
+ bigsd = 0.054
+ cigsd = 0.075
+ dlcig = 0.0
+ poxedge = 1.0
+ pigcd = 1.0
+ ntox = 1.0
+ toxref = 4.23e-9
* Temperature Effects Parameters
+ kt1 = -7.924373247e-01 lkt1 = 6.087865133e-08 wkt1 = 1.276072598e-07 pkt1 = -4.798161401e-14
+ kt2 = 1.626020472e-01 lkt2 = -8.539089664e-08 wkt2 = -1.326603614e-07 pkt2 = 4.568822846e-14
+ at = -4.433949910e+04 lat = 2.869593405e-02 wat = 1.874991537e-01 pat = -6.980799686e-8
+ ute = -8.127409949e-01 lute = 2.067746586e-07 wute = 5.193692717e-07 pute = -1.788707772e-13
+ ua1 = 1.972651465e-09 lua1 = -4.303214166e-16 wua1 = -6.685325589e-16 pua1 = 2.302426133e-22
+ ub1 = -2.955731024e-18 lub1 = 9.378910967e-25 wub1 = 1.375089403e-24 pub1 = -4.735807904e-31
+ uc1 = -1.642735167e-10 luc1 = 6.690779914e-17 wuc1 = 1.039456565e-16 puc1 = -3.579888411e-23
+ kt1l = 0.0
+ prt = 0.0
* BSIM4 - High Speed RF Model Parameters
+ xrcrg1 = 12.0
+ xrcrg2 = 1.0
+ rbpb = 50.0
+ rbpd = 50.0
+ rbps = 50.0
+ rbdb = 50.0
+ rbsb = 50.0
+ gbmin = 1.0e-12
* BSIM4 - Flicker and Thermal Noise Parameters
+ noia = 3.0e+41
+ noib = 0.0
+ noic = 0.0
+ em = 41000000.0
+ af = 1.0
+ ef = 0.88
+ kf = 0.0
+ ntnoi = 1.0
* BSIM4 - Layout Dependent Parasitic Model Parameters
+ dmcg = 0.0
+ dmcgt = 0.0
+ dmdg = 0.0
+ xgw = 0.0
+ xgl = 0.0
+ ngcon = 1.0
* Diode DC IV Parameters
* BSIM4 - Diode DC IV parameters
+ diomod = 1.0
+ njs = 1.3632
+ jss = 2.1483e-5
+ jsws = 1.4472e-10
+ xtis = 5.2
+ bvs = 12.69
+ xjbvs = 1.0
+ ijthsrev = 0.1
+ ijthsfwd = 0.1
* Diode and FET Capacitance Parameters
+ tpb = 0.001671
+ tpbsw = 0.001246
+ tpbswg = 0.0
+ tcj = 0.0012407
+ tcjsw = 0.00037357
+ tcjswg = 2.0e-12
+ cgdo = 2.0e-11
+ cgso = 2.0e-11
+ cgbo = 1.0e-13
+ capmod = 2.0
+ xpart = 0.0
+ cgsl = 0.0
+ cgdl = 0.0
+ cf = 0.0
+ clc = 7.0e-8
+ cle = 0.492
+ dlc = -1.2e-8
+ dwc = 0.0
+ vfbcv = -1.0
+ acde = 0.44
+ moin = 8.7
+ noff = 2.6123
+ voffcv = 0.112
+ ngate = 1.0e+23
+ lwc = 0.0
+ llc = 0.0
+ lwlc = 0.0
+ wlc = 0.0
+ wwc = 0.0
+ wwlc = 0.0
* BSIM4 - FET and Diode capacitance parameters
+ ckappas = 0.6
+ cjs = 0.0007653568198
+ mjs = 0.3362
+ pbs = 0.6587
+ cjsws = 9.1602368e-11
+ mjsws = 0.2659
+ pbsws = 0.7418
+ cjswgs = 2.39155046e-10
+ mjswgs = 0.9274
+ pbswgs = 1.4338
* Stress Parameters
+ saref = 1.44e-6
+ sbref = 1.44e-6
+ wlod = {0+sky130_fd_pr__pfet_01v8_lvt__wlod_diff}
+ kvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__kvth0_diff}
+ lkvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__lkvth0_diff}
+ wkvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__wkvth0_diff}
+ pkvth0 = 0.0
+ llodvth = 0.0
+ wlodvth = 1.0
+ stk2 = 0.0
+ lodk2 = 1.0
+ lodeta0 = 1.0
+ ku0 = {0+sky130_fd_pr__pfet_01v8_lvt__ku0_diff}
+ lku0 = {0+sky130_fd_pr__pfet_01v8_lvt__lku0_diff}
+ wku0 = {0+sky130_fd_pr__pfet_01v8_lvt__wku0_diff}
+ pku0 = 0.0
+ llodku0 = 0.0
+ wlodku0 = 1.0
+ kvsat = {0+sky130_fd_pr__pfet_01v8_lvt__kvsat_diff}
+ steta0 = 0.0
+ tku0 = 0.0
.ends sky130_fd_pr__pfet_01v8_lvt
